US06087380
b) 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylicacid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 70% of theory, Rf value: 0.16 (silica gel; dichloromethane/ethanol=4:1) C26H27N7O3 (485.6) ##EQU27##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C26H24N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylicacid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride | Yield: 70% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C26H27N7O3.2ClH/c1-3-36-24(34)16-33(22-6-4-5-13-29-22)26(35)18-9-12-21-20(14-18)31-23(32(21)2)15-30-19-10-7-17(8-11-19)25(27)28;;/h4-14,30H,3,15-16H2,1-2H3,(H3,27,28);2*1H
